US03998966
A mixture of 25.8 g. of 6-methoxycarbonyl-2-naphthyl-α-methylacetic acid, 4 g. of sodium hydroxide, 10 ml. of water, and 500 ml. of methanol are heated to 50° C, cooled, and evaporated. The residue is taken up in 500 ml. of diethylene glycol dimethyl ether and diborane is bubbled through. The resulting mixture is saturated with diborane and then is allowed to stand for 18 hours. The reaction mixture is acidified by the addition of aqueous 1N hydrochloric acid. The mixture is extracted with methylene chloride. The extracts are combined, washed with water to neutrality, dried over sodium sulfate, filtered, and evaporated to give 6-hydroxymethyl-2-naphthyl-α-methylacetic acid.

reactant | 6-methoxycarbonyl-2-naphthyl-α-methylacetic acid | COC(=O)C=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C15H14O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 6-hydroxymethyl-2-naphthyl-α-methylacetic acid | OCC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C14H14O3
